US08664257B2
(S)-3-{[1-(2-Fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid amide
DMF (1.8 mg, 25 μmol) and oxalyl chloride (160 mg, 1.26 mmol) were added to a solution of (S)-3-{[1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid (500 mg, 1.26 mmol) in DCM (5 ml) at room temperature. After 16 h at room temperature a 33% aqueous solution of ammonia (649 mg, 12.6 mmol) was added and the mixture was stirred for further 16 h. The solvent was removed under reduced pressure and the residue was purified by preparative HPLC to give 170 mg (34%) of the title compound as a colorless oil.

reactant | oxalyl chloride | 1.26 mmol, 160 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (S)-3-{[1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid | 1.26 mmol, 500 mg | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)C | C21H20FN3O4
reactant | ammonia | 12.6 mmol, 649 mg | N | H3N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 25 μmol, 1.8 mg | CN(C)C=O | C3H7NO
product | (S)-3-{[1-(2-Fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid amide | 170 mg, 34% | FC1=C(C=CC=C1)N1N=C(C=C1OC)C(=O)N[C@@H](CC(=O)N)C1=C(C=CC=C1)C | C21H21FN4O3
